US07122550B2
4-(6-{[(1R)-2-Hydroxy-1-phenylethyl]amino}pyrazin-2-yl)-2-methoxyphenol
In a procedure analogous to Example 2, reaction of (2R)-2-[(6-chloropyrazin-2-yl)amino]-2-phenylethanol (137 mg, 0.55 mmol) and 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (151 mg, 0.60 mmol) furnished the product (70 mg, 38%).

reactant | (2R)-2-[(6-chloropyrazin-2-yl)amino]-2-phenylethanol | 0.55 mmol, 137 mg | ClC1=CN=CC(=N1)N[C@@H](CO)C1=CC=CC=C1 | C12H12ClN3O
reactant | 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.60 mmol, 151 mg | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C13H19BO4
product | 4-(6-{[(1R)-2-Hydroxy-1-phenylethyl]amino}pyrazin-2-yl)-2-methoxyphenol | 70 mg, 38% | OC[C@@H](C1=CC=CC=C1)NC1=CN=CC(=N1)C1=CC(=C(C=C1)O)OC | C19H19N3O3
